US08304419B2
N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N-ethyl-1H-imidazole-4-carboxamide
DMF (3 mL) and DIPEA (0.1 mL, 0.59 mmol) were added to a mixture of HATU (0.12 g, 0.32 mmol), 3-chloro-5-({6-chloro-3-[(ethylamino)methyl]-2-fluorophenyl}oxy)benzonitrile (0.10 g, 0.29 mmol) and 1H-imidazole-4-carboxylic acid (0.05 g, 0.41 mmol). The yellow solution was stirred at RT under a nitrogen atmosphere for 48 h then ethyl acetate (100 ml) and saturated NaHCO3 solution (100 ml) were added. The organic layer was washed with saturated NaHCO3 solution (2×100 ml), brine (150 mL), dried over MgSO4, filtered and concentrated. The crude material was purified by Reverse Phase HPLC (MeCN/water+0.1% TFA) to give the title compound (0.046 g, 36%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.47-8.80 (m, 1H), 7.89-8.03 (m, 1H), 7.82 (s, 1H), 7.44-7.56 (m, 3H), 7.33 (t, 1H), 4.69-5.18 (m, 2H), 3.33-3.79 (m, 2H), 1.01-1.27 (m, 3H). LCMS m/z 431.2 (M−H).

reactant | DIPEA | 0.59 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.32 mmol, 0.12 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-chloro-5-({6-chloro-3-[(ethylamino)methyl]-2-fluorophenyl}oxy)benzonitrile | 0.29 mmol, 0.10 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CNCC)F | C16H13Cl2FN2O
reactant | 1H-imidazole-4-carboxylic acid | 0.41 mmol, 0.05 g | N1C=NC(=C1)C(=O)O | C4H4N2O2
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N-ethyl-1H-imidazole-4-carboxamide | 0.046 g, 36% | ClC1=C(C(=C(C=C1)CN(C(=O)C=1N=CNC1)CC)F)OC1=CC(=CC(=C1)C#N)Cl | C20H15Cl2FN4O2
